US06096736
A mixture of 5-ethoxycarbonylmethylidene-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine (18.6 g), methanol (130 ml) and a 4N sodium hydroxide solution in methanol (9.7 ml) is refluxed for three hours. To the mixture is added a 4N sodium hydroxide solution in methanol (12 ml), and the mixture is refluxed for 4.5 hours. Further, to the mixture is added a 5N aqueous sodium hydroxide solution (9.7 ml), and the mixture is refluxed for one hour and concentrated. To residue are added water and ethyl acetate, and the mixture is acidified with conc. hydrochloric acid. The mixture is extracted with ethyl acetate. The organic layer is washed with water, and dried over magnesium sulfate, and concentrated. The residue is crystallized from diethyl ether--n-hexane, and recrystallized from methanol--water to give 5-carboxymethyl-2,3-dihydro-1-(p-toluenesulfonyl)-1H-benzazepine (17.1 g).

reactant | 5-ethoxycarbonylmethylidene-1-(p-toluenesulfonyl)-2,3,4,5-tetrahydro-1H-benzazepine | 18.6 g | C(C)OC(=O)C=C1CCCN(C2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C | C21H23NO4S
reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | sodium hydroxide | 5N, 9.7 ml | [OH-].[Na+]
solvent | methanol | 9.7 ml | CO | CH4O
solvent | methanol | 12 ml | CO | CH4O
solvent | methanol | 130 ml | CO | CH4O
product | 5-carboxymethyl-2,3-dihydro-1-(p-toluenesulfonyl)-1H-benzazepine | 17.1 g | C(=O)(O)CC1=CCCN(C2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)C | C19H19NO4S
